US06846833B2
Step a: Dimethyl 3-[2-(hydroxymethyl)anilino]pentanedioate
There are added in succession, to a solution of dimethyl 3-oxopentanedioate (5 g; 28.71 mmol; 4.2 ml) in dichloroethane (125 ml) at 0° C., (2-aminophenyl)methanol (2.95 g; 23.93 mol), and then NaBH(OAc)3 (6 g; 28.71 mol) in small portions.

reactant | dimethyl 3-oxopentanedioate | 28.71 mmol, 4.2 ml, 5 g | O=C(CC(=O)OC)CC(=O)OC | C7H10O5
reactant | (2-aminophenyl)methanol | 23.93 mol, 2.95 g | NC1=C(C=CC=C1)CO | C7H9NO
reactant | NaBH(OAc)3 | 28.71 mol, 6 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloroethane | 125 ml | ClC(C)Cl | C2H4Cl2
product | Dimethyl 3-[2-(hydroxymethyl)anilino]pentanedioate | OCC1=C(NC(CC(=O)OC)CC(=O)OC)C=CC=C1 | C14H19NO5
